US07557127B2
The mixture of ethyl (2E)-3-(5-{[(3R)-1-(3-chlorobenzyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylate (235 mg, 0.59 mmol) and 1N-NaOH (1.2 mL) in EtOH (2 mL) was stirred at ambient temperature for 1 hr and the mixture was allowed to stand for 18 hrs. The reaction mixture was adjusted to PH 5.0 with 1 mol/L hydrochloric acid and evaporated in vacuo to give (2E)-3-(5-{[(3R)-1-(3-chlorobenzyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylic acid (218 mg, 100%).

reactant | ethyl (2E)-3-(5-{[(3R)-1-(3-chlorobenzyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylate | 0.59 mmol, 235 mg | ClC=1C=C(CN2C[C@@H](CCC2)NC=2N=CC(=NC2)/C=C/C(=O)OCC)C=CC1 | C21H25ClN4O2
reactant | NaOH | 1.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | (2E)-3-(5-{[(3R)-1-(3-chlorobenzyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylic acid | 218 mg, 100% | ClC=1C=C(CN2C[C@@H](CCC2)NC=2N=CC(=NC2)/C=C/C(=O)O)C=CC1 | C19H21ClN4O2
